US04900729
2-(3-Iodopropyl)-4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine
0.6 g (0.0011 mol) of propyl 3-[4-(2-chlorophenyl)-9methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]-diazepin-2-yl]-toluenesulphonate, prepared analogously to Example 6, and a solution of 0.2 g (0.0014 mol) of anhydrous sodium iodide in 15 ml of anhydrous acetone are stirred for 2 hours at ambient temperature. After the solvent has been removed, the residue is taken up in methylene chloride/water, the organic phase is washed several times with water, then dried, the solvent is removed and in this way 0.2 g (yield 36% of theory) of the amorphous title compound are obtained.

reactant | propyl 3-[4-(2-chlorophenyl)-9methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]-diazepin-2-yl]-toluenesulphonate | 0.0011 mol, 0.6 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C3=C(C(=CC=C3)C)S(=O)(=O)OCCC)C(=NN2)C | C25H23ClN4O3S2
reactant | sodium iodide | 0.0014 mol, 0.2 g | [I-].[Na+]
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 2-(3-Iodopropyl)-4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | yield 36% | ICCCC1=CC=2C(=NCC=3N(C2S1)C(=NN3)C)C3=C(C=CC=C3)Cl | C18H16ClIN4S
